US07169926B1
To a suspension of 3,4-diamino-1-methyl-1H-quinolin-2-one (0.60 g, 1.59 mmol) in CH2Cl2 (10 mL) were added Et3N (0.177 g, 1.74 mmol) and 4-chlorocarbonyl-piperidine-1-carboxylic acid benzyl ester (0.45 g, 1.60 mmol) at 0° C. The reaction mixture was stirred at room temperature for 1.5 h, and then excess acid chloride was quenched by addition of MeOH. The mixture was concentrated in vacuo, and the amide intermediate was taken up in 5 mL of HOAc and heated at reflux for 7 h. After cooling to room temperature, the solvent was evaporated under reduced pressure. The cyclized product was purified by flash chromatography, to give 4-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-piperidine-1-carboxylic acid benzyl ester (0.12 g, 18% yield). 1H-NMR (DMSO): δ 8.08 (m, 1H), 7.60 (m, 1H), 7.43 (m, 1H), 7.32 (m, 6H), 5.02 (s, 2H), 3.91 (m, 2H), 3.34 (s, 3H), 2.81 (m, 3H), 1.78 (m, 2H), 1.39 (m, 2H). MS: calculated for C24H24N4O3+H 417.2; found: 417.4.

reactant | 3,4-diamino-1-methyl-1H-quinolin-2-one | 1.59 mmol, 0.60 g | NC=1C(N(C2=CC=CC=C2C1N)C)=O | C10H11N3O
reactant | Et3N | 1.74 mmol, 0.177 g | CCN(CC)CC | C6H15N
reactant | 4-chlorocarbonyl-piperidine-1-carboxylic acid benzyl ester | 1.60 mmol, 0.45 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)Cl | C14H16ClNO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-piperidine-1-carboxylic acid benzyl ester | 0.12 g, 18% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1 | C24H24N4O3
